US08754111B2
Synthesis of ((1R,2S,3R,4R)-2,3-Dihydroxy-4-hydroxymethyl-cyclopentyl)-carbamic acid 9H-fluoren-9-ylmethyl ester
(1R,2S,3R,4R)-2,3-Dihydroxy-4-(hydroxylmethyl)-1-aminocyclopentan hydro-chloride (70.0 g, 380 mmol) was dissolved in water (660 ml) and FmocOSU (N-(9-Fluorenylmethoxycarbonyloxy)-succinimid) (148.5 g, 440 mmol) solved in dioxan (2.00 l) was added. Then saturated sodium hydrogencarbonate solution (800 ml, 880 mmol) was added slowly. The mixture was stirred 3 h at room temperature until TLC (Silicagel Merck 60, chloroform/methanol/acetic acid 8:2+0.1% v/v/v) showed complete consumption of the educts. The obtained precipitate was filtered off and the filtrate was added to water (6.00 l). The resulting suspension was stirred for 5 min and then stored 12 h at 4° C. The resulting suspension was filtered. The obtained solid was washed with cold water (3.00 l) and dried 12 h under reduced pressure at 45° C. over calcium chloride. For a further purification the crude product was suspended in ethylacetate, stirred 1 h, filtered and dried under reduced pressure yielding 134 g (95%) of the title compound as white solid.

reactant | (1R,2S,3R,4R)-2,3-Dihydroxy-4-(hydroxylmethyl)-1-aminocyclopentan hydro-chloride | 380 mmol, 70.0 g | Cl.O[C@H]1[C@@H](C[C@@H]([C@H]1O)CO)N
reactant | FmocOSU | 440 mmol, 148.5 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)ON1C(CCC1=O)=O | C19H15NO5
reactant | sodium hydrogencarbonate | 880 mmol, 800 ml | C(O)([O-])=O.[Na+]
reactant | chloroform methanol acetic acid | C(Cl)(Cl)Cl.CO.C(C)(=O)O
solvent | water | 660 ml | O | H2O
solvent | dioxan | 2.00 l | O1CCOCC1 | C4H8O2
product | ((1R,2S,3R,4R)-2,3-Dihydroxy-4-hydroxymethyl-cyclopentyl)-carbamic acid 9H-fluoren-9-ylmethyl ester | 134 g, 95% | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(N[C@H]1[C@@H]([C@@H]([C@H](C1)CO)O)O)=O | C21H23NO5
